US06436923B1
A. 2-(3-Methoxyphenyl)-N-{2-methoxy(5-pyridyl)}acetamide
The title compound was prepared as described in Example 1.A, using 3-methoxyphenylacetyl chloride (4.8 g, 26.0 mmol) and 5-amino-2-methoxypyridine (3.23 g, 26.0 mmol) to afford the title compound (7.0 g, 99% yield): ES-MS (m/z) 272.

reactant | 3-methoxyphenylacetyl chloride | 26.0 mmol, 4.8 g | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | 5-amino-2-methoxypyridine | 26.0 mmol, 3.23 g | NC=1C=CC(=NC1)OC | C6H8N2O
product | 2-(3-Methoxyphenyl)-N-{2-methoxy(5-pyridyl)}acetamide | 7.0 g, 99% yield | COC=1C=C(C=CC1)CC(=O)NC=1C=CC(=NC1)OC | C15H16N2O3
